US08754114B2
N-[3-[7-(4-{2-[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]-1-methyl-2-oxoethyl]phenyl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedure analogous to those described for the synthesis of Example 98, Step 9 starting from 2-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid and (2S)-pyrrolidin-2-ylmethanol. LCMS (M+H)+: m/z=567.3

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C24H20F3N5O3
reactant | (2S)-pyrrolidin-2-ylmethanol | N1[C@@H](CCC1)CO | C5H11NO
product | N-[3-[7-(4-{2-[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]-1-methyl-2-oxoethyl]phenyl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′(2,2,2-trifluoroethyl)urea | OC[C@H]1N(CCC1)C(C(C)C1=CC=C(C=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)=O | C29H29F3N6O3
